US08314087B2
5-(3-Fluorophenyl)-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one.
The crude 5-(3-fluorophenyl)-1-(2-hydroxyethyl)pyridin-2(1H)-one, 4-chloro-7-methoxyquinoline (107 mg, 553 μmol), cesium carbonate (191.2 mg, 587 μmol), palladium(II) acetate (24.6 mg, 110 μmol), and racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl (50.2 mg, 126 μmol) were suspended in a microwave vial in toluene (3.0 ml) and sealed under argon. The tube was heated in a preheated oil bath (70° C.) and stirred for about 2 hours. The reaction was then cooled to room temperature and filtered through a silica gel filter [5:1 CH2Cl2/(2 N ammonia in MeOH)]. The filtrate was concentrated and purified on reverse phase HPLC (10%->95% MeCN/water with 0.1% TFA over 40 minutes on Shimatzu HPLC). The fractions with product were collected, concentrated, washed with Et2O, and then purified on a silica gel column (25:1->10:1 CH2Cl2/MeOH->10:1 CH2Cl2/2 N ammonia in MeOH) to afford the desired product (22.8 mg, 58.4 μmol, 13% yield over two steps). MS (ESI pos. ion) m/z (MH+): 391. Calc'd exact mass for C23H19FN2O3: 390. 1H NMR (400 MHz, CDCl3): 8.67 (d, J=5.0 Hz, 1H), 7.97 (d, J=9.0 Hz, 1H), 7.70 (d, J=2.0 Hz, 1H), 7.61 (dd, J=9.0 Hz, 2.0 Hz, 1H), 7.40-7.36 (m, 2H), 7.13 (d, J=8.0 Hz, 1H), 7.07-7.02 (m, 3H), 6.70 (d, J=9.0 Hz, 1H), 6.67 (d, J=5.2 Hz, 1H), 4.62-4.54 (m, 4H), 3.94 (s, 3H).

reactant | 5-(3-fluorophenyl)-1-(2-hydroxyethyl)pyridin-2(1H)-one | FC=1C=C(C=CC1)C=1C=CC(N(C1)CCO)=O | C13H12FNO2
reactant | 4-chloro-7-methoxyquinoline | 553 μmol, 107 mg | ClC1=CC=NC2=CC(=CC=C12)OC | C10H8ClNO
reactant | cesium carbonate | 587 μmol, 191.2 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | racemic-2-(di-t-butylphosphino)-1,1′-binaphthyl | 126 μmol, 50.2 mg | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
solvent | toluene | 3.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 110 μmol, 24.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(3-Fluorophenyl)-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1H)-one | 58.4 μmol, 22.8 mg, 13% yield | FC=1C=C(C=CC1)C=1C=CC(N(C1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C23H19FN2O3
